US07262202B2
[4-(2,4-Dimethyl-5-nitro-1H-pyrrol-3-yl)-pyrimidin-2-yl]-(4-fluoro-phenyl)-amine [47]
3-Dimethylamino-1-(2,4-dimethyl-5-nitro-1H-pyrrol-3-yl)-propenone (110 mg, 0.46 mmol), 4-fluorophenyl guanidine nitrate (150 mg, 0.7 mmol), and K2CO3 (193 mg, 1.4 mmol) were partially dissolved in 2-methoxyethanol and heated at 120° C. for 18 h. The mixture was concentrated in vacuo and purified by SiO2 chromatography (heptane/EtOAc gradient elution). The crude product was triturated in iPr2O to afford the title compound (22 mg) as a pale orange solid. M.p. 166.3–170.1° C. MS: [M+H]+=329.3 (C16H14FN5O2 requires 327.3). 1H-NMR (DMSO-d6) δ: 2.49 (s, 3H, CH3), 2.59 (s, 3H, CH3), 6.73 (d, 1H, J=5.1 Hz, pyrimidinyl-H), 7.04 (t, 2H, J=8.8 Hz, Ph-H), 7.07 (br. s, 1H, NH), 7.55–7.58 (m, 2H, Ph-H), 8.44 (d, 1H, J=5.1 Hz, pyrimidinyl-H), 9.40 (br. s, 1H, NH).

reactant | 4-fluorophenyl guanidine nitrate | 0.7 mmol, 150 mg | [N+](=O)(O)[O-].FC1=CC=C(C=C1)NC(=N)N
reactant | K2CO3 | 1.4 mmol, 193 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-methoxyethanol | COCCO | C3H8O2
product | [4-(2,4-Dimethyl-5-nitro-1H-pyrrol-3-yl)-pyrimidin-2-yl]-(4-fluoro-phenyl)-amine | 22 mg | CC=1NC(=C(C1C1=NC(=NC=C1)NC1=CC=C(C=C1)F)C)[N+](=O)[O-] | C16H14FN5O2
